US06353025B1
To a solution of 4-(2-bromoethyl)aniline hydrobromide (9.15 g) in N,N-dimethylformamide (65 ml) were added potassium carbonate (4.95 g) and ethyl bromoacetate (3.97 ml), and the mixture was stirred for 36 hours at room temperature. The reaction mixture was poured into ice-water, and collection of the resulting precipitates by filtration gave ethyl N-[4-(2-bromoethyl)phenyl]aminoacetate (8.39 g)

reactant | 4-(2-bromoethyl)aniline hydrobromide | 9.15 g | Br.BrCCC1=CC=C(N)C=C1
reactant | potassium carbonate | 4.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 3.97 ml | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | ethyl N-[4-(2-bromoethyl)phenyl]aminoacetate | 8.39 g | BrCCC1=CC=C(C=C1)NCC(=O)OCC | C12H16BrNO2
